US05637718
(a) 3,3-Dimethylpent-4-enoic Acid
To a solution of methyl 3,3-dimethylpent-4-enoate (0.5 mole) in 500 ml of ethanol (95% grade) was added potassium hydroxide (1 mole). The solution was refluxed for 1.5 hours. After cooling down to room temperature, the solution was concentrated to 200 ml on a rotary evaporator, and acidified by the addition of 5N H2SO4 solution. The product was isolated by extraction with diethyl ether (3×200 mls). After removal of the solvent, the crude product was distilled under reduced pressure to yield the pure acid (77%) b.p. 78°-80° C. (1.5 mmHg). 1H NMR (CDCl3) δ10.60 (1H, broad s), 5.90 (1H, dd, J 10.3, 17.6 Hz), 5.00 (1H, dd, J 17.6 Hz, J 1.3 Hz), 4.97 (1H, dd, J 10.3 Hz, J 1.3 Hz), 2.35 (2H, s), and 1.20 (6H, s).

reactant | methyl 3,3-dimethylpent-4-enoate | 0.5 mole | CC(CC(=O)OC)(C=C)C | C8H14O2
reactant | potassium hydroxide | 1 mole | [OH-].[K+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 3,3-Dimethylpent-4-enoic Acid | 77% | CC(CC(=O)O)(C=C)C | C7H12O2
